US08217069B2
2-Chloro-4-methoxy-5-[1-(2-methoxyphenyl)-1-methylethylthio]aniline
To concentrated sulfuric acid (6 mL) was added water (6 mL) under ice-cooling, and the mixture was stirred at the same temperature for 10 minutes. To the mixture was added a solution of 2-chloro-5-mercapto-4-methoxyaniline (0.5 g) and 2-(2-methoxyphenyl)-2-propanol (0.88 g) in tetrahydrofuran (6 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into ice water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water, a saturated aqueous sodium hydrogen carbonate solution and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane−n-hexane/ethyl acetate=4/1) to give the title compound (0.3 g).

reactant | sulfuric acid | 6 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 6 mL | O | H2O
reactant | 2-chloro-5-mercapto-4-methoxyaniline | 0.5 g | ClC1=C(N)C=C(C(=C1)OC)S | C7H8ClNOS
reactant | 2-(2-methoxyphenyl)-2-propanol | 0.88 g | COC1=C(C=CC=C1)C(C)(C)O | C10H14O2
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 2-Chloro-4-methoxy-5-[1-(2-methoxyphenyl)-1-methylethylthio]aniline | 0.3 g | ClC1=C(N)C=C(C(=C1)OC)SC(C)(C)C1=C(C=CC=C1)OC | C17H20ClNO2S
